US09108953B2
Preparation of N-cyclopentyl-2-((cyclopropylmethyl)amino)-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide
A mixture of 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide (23 mg, 0.057 mmol), cyclopropylmethyl amine (0.2 mL) and DMF (0.5 mL) was heated at 110° C. for 1 hour. The reaction mixture was purified by preparative HPLC to give the desired product, N-cyclopentyl-2-((cyclopropylmethyl)amino)-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide.

reactant | 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide | 0.057 mmol, 23 mg | ClC1=NC=2C=C(C=C(C2C=C1)S(=O)(=O)NC1CCCC1)C=1C(=NOC1C)C | C19H20ClN3O3S
reactant | cyclopropylmethyl amine | 0.2 mL | C1(CC1)CN | C4H9N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-cyclopentyl-2-((cyclopropylmethyl)amino)-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide | C1(CCCC1)NS(=O)(=O)C=1C=2C=CC(=NC2C=C(C1)C=1C(=NOC1C)C)NCC1CC1 | C23H28N4O3S
